* source FILTR_SR
C_C1         0 N01199  1n  
C_C2         0 N01199  1n  
R_R6         0 N02512  2k  
V_V1         N01199 0 20Vdc
C_C3         0 OUT  1n  
R_R5         N02512 OUT  10k  
R_R3         0 N02512  2.4k  
C_1n         0 OUT  400n  
X_U4         N01199 OUT N02512 LM7805C
